US04665179
2-(2-aminoethylamino)-5-nitrophenyl 2-hydroxypropyl sulphone
28 g (0.1 mol) of 2-chloro-5-nitrophenyl 2-hydroxypropyl sulphone are refluxed in 100 ml of isopropanol. To this are added gradually 15 ml of ethylenediamine, and heating is continued with stirring for a further hour. The cold reaction solution is diluted with 300 ml of water and stirred at 20° C. for two hours. The precipitated yellowish crystals are filtered off with suction, washed with 100 ml of water and dried. This gives 28 g of uniform 2-(2-aminoethylamino)-5-nitrophenyl 2-hydroxypropyl sulphone.

reactant | 2-chloro-5-nitrophenyl 2-hydroxypropyl sulphone | 0.1 mol, 28 g | OC(CS(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])Cl)C | C9H10ClNO5S
reactant | ethylenediamine | 15 ml | C(CN)N | C2H8N2
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | water | 300 ml | O | H2O
product | 2-(2-aminoethylamino)-5-nitrophenyl 2-hydroxypropyl sulphone | OC(CS(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])NCCN)C | C11H17N3O5S
